US07745475B2
3-[4-(2-Azabicyclo[2.1.1]hex-2-ylcarbonyl)-2-fluorophenoxy]-5-[(1S)-2-hydroxy-1-methylethoxy]-N-(1-methyl-1H-pyrazol-3-yl)benzamide
DIPEA (0.80 mL, 4.32 mmol) was added to a suspension of 3-fluoro-4-(3-[(1S)-2-hydroxy-1-methylethoxy]-5-{[(1-methyl-1H-pyrazol-3-yl)amino]carbonyl}phenoxy)benzoic acid (230 mg, 0.54 mmol), HATU (430 mg, 1.29 mmol) and 2-azabicyclo[2.1.1]hexane hydrochloride salt (96 mg, 0.81 mmol) in DMF (4 mL) and the mixture stirred at RT for 24 hours. Ethyl acetate was added and washed with water (3×30 mL), brine (30 mL), dried (MgSO4), and evaporated to a residue which was chromatographed on silica, eluting with a gradient of 0-10% methanol in DCM, to give the desired compound (51 mg).

reactant | DIPEA | 4.32 mmol, 0.80 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | 3-fluoro-4-(3-[(1S)-2-hydroxy-1-methylethoxy]-5-{[(1-methyl-1H-pyrazol-3-yl)amino]carbonyl}phenoxy)benzoic acid | 0.54 mmol, 230 mg | FC=1C=C(C(=O)O)C=CC1OC1=CC(=CC(=C1)C(=O)NC1=NN(C=C1)C)O[C@H](CO)C | C21H20FN3O6
reactant | HATU | 1.29 mmol, 430 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | 2-azabicyclo[2.1.1]hexane hydrochloride salt | 0.81 mmol, 96 mg | Cl.C12NCC(C1)C2
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
solvent | Ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-[4-(2-Azabicyclo[2.1.1]hex-2-ylcarbonyl)-2-fluorophenoxy]-5-[(1S)-2-hydroxy-1-methylethoxy]-N-(1-methyl-1H-pyrazol-3-yl)benzamide | 51 mg | C12N(CC(C1)C2)C(=O)C2=CC(=C(OC=1C=C(C(=O)NC3=NN(C=C3)C)C=C(C1)O[C@H](CO)C)C=C2)F | C26H27FN4O5
